US05204349
(1S)-1'-(((7,7-dimethyl-2-oxobicyclo(2.2.1) hept-1-yl)methyl)sulfonyl)spiro(1H-indene-1,4'-piperidine) (30 g, 0.075 mole) in pyridine (500 mL) was heated in an oil bath to 70° C. (internal). Hydroxylamine hydrochloride (30 g) was added in three portions over ca. 20 minutes. After 2 hours, an additional 10 g of hydroxylamine hydrochloride was added (over 10 minutes). At 30, 40, and 50 minutes additional elapsed time, further 3 g lots of hydroxylamine hydrochloride were added. After another 30 minutes, the mixture was poured into water (2 L) and extracted 3 times with ethyl acetate (300 mL portions). The organic layers were combined, washed with 1N HCl (600 mL total), dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. EtOH (abs; ca. 250 mL) was added to the resulting thick syrup and the solution allowed to stand at ambient temperature overnight. The mixture was filtered and the filtrate boiled down to ca. 80 mL. After standing, the mixture was again filtered and boiled down to ca. 20 mL. After a third filtration, the filtered solids were combined to give (1S)-1'-(((7, 7-dimethyl-2-oximinobicyclo(2.2.1)hept-1yl)-methyl) sulfonyl)spiro(1H-indene-1,4'-piperidine) (28 g).

reactant | (1S)-1'-(((7,7-dimethyl-2-oxobicyclo(2.2.1) hept-1-yl)methyl)sulfonyl)spiro(1H-indene-1,4'-piperidine) | 0.075 mole, 30 g | CC1([C@@]2(C(CC1CC2)=O)CS(=O)(=O)N2CCC1(CC2)C=CC2=CC=CC=C21)C | C23H29NO3S
reactant | Hydroxylamine hydrochloride | 30 g | Cl.NO
reactant | hydroxylamine hydrochloride | 10 g | Cl.NO
reactant | water | 2 L | O | H2O
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | (1S)-1'-(((7, 7-dimethyl-2-oximinobicyclo(2.2.1)hept-1yl)-methyl) sulfonyl)spiro(1H-indene-1,4'-piperidine) | 28 g | CC1([C@@]2(C(CC1CC2)=NO)CS(=O)(=O)N2CCC1(CC2)C=CC2=CC=CC=C21)C | C23H30N2O3S
